US09029399B2
Preparation of 1-(4-cyclopropylpyridin-3-yl)-3-(5-fluoro-4-methylpyridin-2-yl)imidazolidin-2-one (42A)
Using analogous reagents and reaction conditions as described in Example 1 above, 1-(4-cyclopropylpyridin-3-yl)imidazolidin-2-one (I-1d: 100 mg, 0.492 mmol) was reacted with 2-bromo-5-fluoro-4-methylpyridine (102 mg, 0.541 mmol) 1,4-dioxane (5 mL), copper iodide (9 mg, 0.0492 mmol), trans-N,N′-dimethylcyclohexane-1,2-diamine (21 mg, 0.147 mmol) and potassium phosphate (313 mg, 1.47 mmol) to afford the crude product. Purification by column chromatography on silica gel (80% ethyl acetate in hexane) afforded 60 mg of the product (39.21% yield).

reactant | 1-(4-cyclopropylpyridin-3-yl)imidazolidin-2-one | 0.492 mmol, 100 mg | C1(CC1)C1=C(C=NC=C1)N1C(NCC1)=O | C11H13N3O
reactant | 2-bromo-5-fluoro-4-methylpyridine | 0.541 mmol, 5 mL, 102 mg | BrC1=NC=C(C(=C1)C)F | C6H5BrFN
reactant | trans-N,N′-dimethylcyclohexane-1,2-diamine | 0.147 mmol, 21 mg | CN[C@H]1[C@@H](CCCC1)NC | C8H18N2
reactant | potassium phosphate | 1.47 mmol, 313 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | copper iodide | 0.0492 mmol, 9 mg | [Cu](I)I
product | 1-(4-cyclopropylpyridin-3-yl)-3-(5-fluoro-4-methylpyridin-2-yl)imidazolidin-2-one | 60 mg, 39.21% yield | C1(CC1)C1=C(C=NC=C1)N1C(N(CC1)C1=NC=C(C(=C1)C)F)=O | C17H17FN4O
